data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccc(OC)cc1_2-C1CCCCC1_3-c1ccccc1","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccc(OC)cc1)(O)(C1CCCCC1)(c1ccccc1)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C=C(C1CCCCC1)(c1ccccc1)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccc(OC)cc1)(C1CCCCC1)(c1ccccc1)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccc(OC)cc1)(C1CCCCC1)(c1ccccc1)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from C1CCCCC1 and c1ccccc1."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccc(OC)cc1)=C=C(C1CCCCC1)(c1ccccc1)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C=C(C1CCCCC1)(c1ccccc1)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-211_1-c1ccc(C(F)(F)F)cc1_2-c1cnccc1_3-C1CCCCC1_4-C(C)(C)C","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)c1cnccc1","[C-]#[N+]C1CCCCC1","O=C(O)C(C)(C)C"],"products_smiles": ["O=C(C(C)(C)C)OC(C(=O)NC1CCCCC1)(c1ccc(C(F)(F)F)cc1)c1cnccc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)c1cnccc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(c1cnccc1)C(#[N+]C1CCCCC1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(C)(C)C)OC(=[N]C1CCCCC1)C(c1ccc(C(F)(F)F)cc1)(c1cnccc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(C)(C)C)OC(=[N]C1CCCCC1)C(c1ccc(C(F)(F)F)cc1)(c1cnccc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(C)(C)C)OC(C(=O)NC1CCCCC1)(c1ccc(C(F)(F)F)cc1)c1cnccc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
